US07795262B2
Step 5. Preparation of 3-chloro-5,6,7,8-tetrahydropyrido[3,4-c]pyridazine
A mixture of 7-benzyl-3-chloro-5,6,7,8-tetrahydropyrido[3,4-c]pyridazine (1.3 g, 5.0 mmol) and 1-chloroethyl chloroformate (0.86 g, 10.0 mmol) in dichloroethane (30 ml) is heated at refluxing temperature overnight. The solvent is removed in vacuo and MeOH (30 ml) is added to the residue. The resulting mixture is refluxed for 30 min. The solvent is removed in vacuo to give the title compound as a hydrogen chloride salt, which is used in the next step without purification.

reactant | 7-benzyl-3-chloro-5,6,7,8-tetrahydropyrido[3,4-c]pyridazine | 5.0 mmol, 1.3 g | C(C1=CC=CC=C1)N1CC=2N=NC(=CC2CC1)Cl | C14H14ClN3
reactant | 1-chloroethyl chloroformate | 10.0 mmol, 0.86 g | ClC(=O)OC(C)Cl | C3H4Cl2O2
solvent | dichloroethane | 30 ml | ClC(C)Cl | C2H4Cl2
product | 3-chloro-5,6,7,8-tetrahydropyrido[3,4-c]pyridazine | ClC1=CC2=C(N=N1)CNCC2 | C7H8ClN3
